US08912186B2
1,2-Phenylenediamine (54 mg) and 3-(2-naphthyl)glutaric anhydride (120 mg) were dissolved in dichloromethane (2 ml) with heating. The solution was stirred at rt for 1 h. The precipitate formed was collected by suction filtration, washed with dichloromethane, and dried to give a mixture of regioisomeric amides (131 mg) as colourless solid. This solid was dissolved in 1,4-dioxane (1 ml) with heating, and 4M HCl in 1,4-dioxane (1 ml) was added. The solution was heated to reflux for 1 h. After removal of the solvent the residue was triturated with acetone to give 4-(2-benzimidazolyl)-3-(2-naphthyl)butanoic acid HCl (100 mg) as colourless solid.

reactant | 1,2-Phenylenediamine | 54 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 3-(2-naphthyl)glutaric anhydride | 120 mg | C1=C(C=CC2=CC=CC=C12)C1CC(=O)OC(C1)=O | C15H12O3
reactant | HCl | 4M | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 4-(2-benzimidazolyl)-3-(2-naphthyl)butanoic acid HCl | 100 mg | Cl.N1=C(NC2=C1C=CC=C2)CC(CC(=O)O)C2=CC1=CC=CC=C1C=C2 | InChI=1S/C21H18N2O2.ClH/c24-21(25)13-17(12-20-22-18-7-3-4-8-19(18)23-20)16-10-9-14-5-1-2-6-15(14)11-16;/h1-11,17H,12-13H2,(H,22,23)(H,24,25);1H
